US07618990B2
4-{5-Chloro-2-[(1,1-dimethyl-2-oxoethyl)amino]-1,3-thiazol-4-yl}benzonitrile (1.15 g, 3.76 mmol), prepared in the previous step, was dissolved in tetrahydrofuran (20 mL) and cooled to 0° C. Lithium borohydride (2M in tetrahydrofuran; 2.25 mL, 2.5 mmol) was added dropwise and the mixture was stirred for 1 h. The reaction was quenched with saturated NH4Cl, diluted with ethyl acetate and washed with H2O, brine, dried over anhydrous MgSO4, filtered and concentrated. Flash chromatography (20% acetone/hexane) afforded 4-{5-chloro-2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}benzonitrile (1.01 g, 88%) as a white solid. HRMS: calcd for C14H14ClN3OS+H+, 308.06188; found (ESI, [M+H]+), 308.0612; Analytical HPLC: purity 100% at 210-370 nm, 10.0 min; 100% at 252 nm, 10.0 min; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | 4-{5-Chloro-2-[(1,1-dimethyl-2-oxoethyl)amino]-1,3-thiazol-4-yl}benzonitrile | 3.76 mmol, 1.15 g | ClC1=C(N=C(S1)NC(C=O)(C)C)C1=CC=C(C#N)C=C1 | C14H12ClN3OS
reactant | Lithium borohydride | 2.5 mmol, 2M, 2.25 mL | [BH4-].[Li+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-{5-chloro-2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}benzonitrile | 1.01 g, 88% | ClC1=C(N=C(S1)NC(CO)(C)C)C1=CC=C(C#N)C=C1 | C14H14ClN3OS
